US07041668B2
15.6 g of 2-amino-5-(4-fluorophenylsulfonyloxy)nitrobenzene were combined with 25 ml ethanolamine in 100 ml ethyl glycol in a round bottom flask. The reaction mixture was heated to reflux for 90 min and then cooled on ice. Reaction mixture was then diluted with 250 ml of 2N aqueous HCl, the compound precipitated and was filtered off with suction. The preciptate was the washed with water and dried, yielding 15.5 g of 2-amino-5-(4-[2-hydroxyethyl]aminophenylsulfonyloxy)nitrobenzene (melting point 180° C.).

reactant | 2-amino-5-(4-fluorophenylsulfonyloxy)nitrobenzene | 15.6 g | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)F)[N+](=O)[O-] | C12H9FN2O5S
reactant | ethanolamine | 25 ml | C(O)CN | C2H7NO
solvent | ethyl glycol | 100 ml | CCOCCO | C4H10O2
solvent | HCl | 2N, 250 ml | Cl | ClH
product | 2-amino-5-(4-[2-hydroxyethyl]aminophenylsulfonyloxy)nitrobenzene | 15.5 g | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)NCCO)[N+](=O)[O-] | C14H15N3O6S
